US09255090B2
To a solution of 4-bromo-2-chloro-1-(2-chloro-ethoxy)-benzene (5.84 g, 17.4 mmol, 1 eq.) in DMF (22 mL), sodium hydride 60% dispersion in mineral oil (1.40 g, 34.9 mmol, 2 eq.) was added portionwise at r.t. The resulting mixture was stirred at r.t. for 18 hours. The mixture was partitioned between water (70 mL) and AcOEt (250 mL). The layers were separated and the org. layer was washed with water (4×100 mL), dried over MgSO4, filtered, and concentrated in vacuo. To a solution of the residue in DMF (22 mL), sodium hydride 60% dispersion in mineral oil (1.40 g, 34.9 mmol, 2 eq.) was added portionwise at r.t. The resulting mixture was stirred at r.t. for 48 hours. The mixture was partitioned between water (70 mL) and AcOEt (250 mL). The layers were separated and the org. layer was washed with water (4×100 mL), dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane 100% to Heptane+5% AcOEt) to give 4-bromo-2-chloro-1-vinyloxy-benzene as a colorless oil.

reactant | 4-bromo-2-chloro-1-(2-chloro-ethoxy)-benzene | 17.4 mmol, 5.84 g, 1 eq. | BrC1=CC(=C(C=C1)OCCCl)Cl | C8H7BrCl2O
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
solvent | sodium hydride | [H-].[Na+]
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-1-vinyloxy-benzene | BrC1=CC(=C(C=C1)OC=C)Cl | C8H6BrClO
